US08217177B2
In a 15-mL sealed tube flushed with nitrogen, tert-butyl (6-chloro-[1,2,4]triazolo[4,3-b]pyridazin-3-yl)methylcarbamate (2.00 g, 7.0 mmol), PdCl2(dppf)-CH2Cl2 adduct (0.58 g, 0.70 mmol), and copper (I) iodide (0.34 g, 1.8 mmol) were diluted in MeCN (70 mL). To the reaction mixture was first added 4-methylpent-1-yn-3-ol (3.7 ml, 35 mmol), followed by triethylamine (25 ml, 176 mmol). The reaction was then heated at 50° C. for 7.5 h. The crude material was dissolved in minimal DCM and purified via MPLC (twice)(eluting with 0-10% MeOH/NH4OH:DCM) to yield tert-butyl (6-(3-hydroxy-4-methylpent-1-ynyl)-[1,2,4]triazolo[4,3-b]pyridazin-3-yl)methylcarbamate (1.823 g, 75% yield) as a light brown solid.

reactant | tert-butyl (6-chloro-[1,2,4]triazolo[4,3-b]pyridazin-3-yl)methylcarbamate | 7.0 mmol, 2.00 g | ClC=1C=CC=2N(N1)C(=NN2)CNC(OC(C)(C)C)=O | C11H14ClN5O2
reactant | 4-methylpent-1-yn-3-ol | 35 mmol, 3.7 ml | CC(C(C#C)O)C | C6H10O
reactant | triethylamine | 176 mmol, 25 ml | C(C)N(CC)CC | C6H15N
solvent | MeCN | 70 mL | CC#N | C2H3N
solvent | DCM | C(Cl)Cl | CH2Cl2
catalyst | PdCl2(dppf) CH2Cl2 | 0.70 mmol, 0.58 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2].C(Cl)Cl
catalyst | copper (I) iodide | 1.8 mmol, 0.34 g | [Cu]I
product | tert-butyl (6-(3-hydroxy-4-methylpent-1-ynyl)-[1,2,4]triazolo[4,3-b]pyridazin-3-yl)methylcarbamate | 1.823 g, 75% yield | OC(C#CC=1C=CC=2N(N1)C(=NN2)CNC(OC(C)(C)C)=O)C(C)C | C17H23N5O3
